US04497949
Cyanogen bromide (424 mg., 4 m moles) was added to a solution of 2,2-dimethoxy-1-methylpropylamine (266 mg., 2 m moles) and KHCO3 (400 mg., 4 m moles) in a mixture of water (2 ml.) and methanol (4 ml.). After 15 minutes the mixture was poured into water (150 ml.) and the mixture extracted with CH2Cl2. The extract was washed with water and brine, dried (MgSO4) and evaporated to dryness to give 2,2-dimethoxy-1-methylpropylcyanamide as a pale yellow oil (280 mg., 88%) having the following n.m.r. spectrum in CDCl3 : 1.15 (s, 3H), 1.18 (d, 3H); 3.15 (s, 6H); 3.0-3.6 (m, 1H); 4.0 (m, 1H).

reactant | Cyanogen bromide | 424 mg | N#CBr | CBrN
reactant | 2,2-dimethoxy-1-methylpropylamine | 266 mg | COC(C(C)N)(C)OC | C6H15NO2
solvent | water | 2 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 2,2-dimethoxy-1-methylpropylcyanamide | COC(C(C)NC#N)(C)OC | C7H14N2O2
